US08207183B2
1-((S)-2-Amino-2-cyclohexyl-acetyl)-pyrrolidine-2-Carbaldehyde-O-benzyl-oxime (D).
The solution of {(S)-2-[benzyloxylimino-methyl-pyrrolidine-1-yl]-1-cyclohexyl-2-oxo-ethyl}-carbamic acid tert-butyl ester (1.76 g, 3.97 mmole) and TFA (10 ml) in dichloromethane (20 ml) is stirred for a hour. Solvent is removed under vacuum. The residue is carried to next step without further purification. M+H+=344.2

reactant | {(S)-2-[benzyloxylimino-methyl-pyrrolidine-1-yl]-1-cyclohexyl-2-oxo-ethyl}-carbamic acid tert-butyl ester | 3.97 mmole, 1.76 g | C(C)(C)(C)OC(N[C@H](C(=O)N1C(C(CC1)=NOCC1=CC=CC=C1)C)C1CCCCC1)=O | C25H37N3O4
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-((S)-2-Amino-2-cyclohexyl-acetyl)-pyrrolidine-2-Carbaldehyde-O-benzyl-oxime | C(C1=CC=CC=C1)ON=CC1N(CCC1)C([C@H](C1CCCCC1)N)=O | C20H29N3O2
